US03959322
dl-13-Ethyl-17β-(tetrahydropyran-2-yloxy)gon-4-en-3-one
Add with swirling a solution of p-toluenesulfonic acid (14 mg) in benzene (0.8 mole) to dl-17β-hydroxy-13-ethylgon-4-en-3-one (450 mg) in 2,3-dihydropyran (3 ml). After two hours, neutralize the reaction mixture with methanolic sodium hydroxide. Add water, together with some methanol, scratch the mixture and allow it to stand at 0° for about 70 hours. Filter to obtain the title compound (100 mg), m.p. 148°-152°; infrared absorption peaks at 6.0 μ, 6.2 μ, 9.02 μ, 9.42 μ, 9.68 μ, 9.85 μ, 10.25 μ (no hydroxyl band).

reactant | p-toluenesulfonic acid | 14 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | benzene | 0.8 mole | C1=CC=CC=C1 | C6H6
reactant | 17β-hydroxy-13-ethylgon-4-en-3-one | 450 mg | O[C@H]1CC[C@H]2[C@H]3[C@H](CC[C@]12CC)[C@H]1CCC(C=C1CC3)=O | C19H28O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | 2,3-dihydropyran | 3 ml | O1CCCC=C1 | C5H8O
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 13-Ethyl-17β-(tetrahydropyran-2-yloxy)gon-4-en-3-one | 100 mg | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)OC2OCCCC2 | C24H36O3
